US07888352B2
To sodium chloride (60% wt. suspension in mineral oil, 108 mg) in dry DMF (5 ml) was added 1,3-thiazole-2-thiol (315 mg) at 0° C. After 30 minutes added 4-methanesulfonyl-piperidine-carboxylic acid tert-butyl ester (500 mg) as a solution in DMF (2 ml) and the reaction mixture was warmed up to room temperature overnight, then heated at 50° C. for 3 hours. Aqueous work-up and purification on silica yielded 4-(thiazol-2-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester (174 mg).

reactant | sodium chloride | 108 mg | [Cl-].[Na+]
reactant | 1,3-thiazole-2-thiol | 315 mg | S1C(=NC=C1)S | C3H3NS2
reactant | 4-methanesulfonyl-piperidine-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)C | C11H21NO4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(thiazol-2-ylsulfanyl)-piperidine-1-carboxylic acid tert-butyl ester | 174 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1SC=CN1 | C13H20N2O2S2
